US07358250B2
Step B: N,N-Dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide
A mixture of 983 mg (9.6 mmol) of KOAc, 82 mg (0.10 mmol) of Pd(dppf)2Cl2.CH2Cl2 and 950 mg (98%, 3.7 mmol) of bis(pinacolato)diboron was purged with nitrogen for 2 min. In a separate flask, 1.04 g (3.3 mmol) of 4-iodo-N,N-dimethyl-benzenesulfonamide was purged with nitrogen for 2 min and then was dissolved in 20 ml DMSO. This solution was added to the solids in the first flask, and the resulting orange slurry was heated to 80° C. for 17 h. The reaction mixture was diluted with benzene (100 ml) and washed with water (60 ml). The aqueous layer was extracted with more benzene (1×). The combined organic layers were dried over Na2SO4, filtered, and the filtrate was concentrated and purified by chromatography on silica gel (hexanes:EtOAc, 17:3) to give the title compound. 1H-NMR (CDCl3) δ 1.36 (s, 12 H), 2.69 (s, 6 H), 7.75 (d, J=8.1 Hz, 2 H), 7.97 (d, J=8.0 Hz, 2 H). Mass Spectrum (ESI) m/e=312.1 (M+1).

reactant | KOAc | 9.6 mmol, 983 mg | CC(=O)[O-].[K+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | bis(pinacolato)diboron | 3.7 mmol, 950 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 4-iodo-N,N-dimethyl-benzenesulfonamide | 3.3 mmol, 1.04 g | IC1=CC=C(C=C1)S(=O)(=O)N(C)C | C8H10INO2S
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | Pd(dppf)2Cl2 | 0.10 mmol, 82 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N,N-Dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide | CN(S(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C14H22BNO4S
